US05641775
1-(3-Methylbutyl)-5-phenyl-1H-1,5-benzodiazepine-2,3,4-(5H)-trione-3-(phenylhydrazone)
Solutions of N1 -(3-Methylbutyl)-N2 -phenyl-1,2-benzenediamine (12.45 g) in dry THF (100 ml) and (phenylhydrazono)propandioyl dichloride (12.0 g) in dry THF (100 ml) were added dropwise concurrently to a flask of dry THF (100 ml) cooled in an ice-methanol bath under nitrogen. After 30 min more diacid chloride (1.0 g) in dry THF (30 ml) was added and the mixture was allowed to warm to 23°. After 24 h the mixture was poured into dilute HCl and extracted with EA. The combined extracts were washed with dilute sodium carbonate and saturated brine then dried and evaporated. The residue was chromatographed on TEA deactivated silica with EA as eluent to give the title compound (20.2 g) as a yellow solid, m.p. 143°

reactant | N1 -(3-Methylbutyl)-N2 -phenyl-1,2-benzenediamine | 12.45 g | CC(CCNC=1C(=CC=CC1)NC1=CC=CC=C1)C | C17H22N2
reactant | (phenylhydrazono)propandioyl dichloride | 12.0 g | C1(=CC=CC=C1)NN=C(C(=O)Cl)C(=O)Cl | C9H6Cl2N2O2
reactant | HCl | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-(3-Methylbutyl)-5-phenyl-1H-1,5-benzodiazepine-2,3,4-(5H)-trione-3-(phenylhydrazone) | 20.2 g | C1(=CC=CC=C1)NN=C1C(N(C2=C(N(C1=O)CCC(C)C)C=CC=C2)C2=CC=CC=C2)=O | C26H26N4O2
